* FUSED_F PPA Transient — Xyce BSIM-CMG level=107
* ASAP5 SLVT TT cal, VDD=0.4V, nfin=2, L=16n
* Parasitic caps from Magic .ext extraction

.include '/Users/bruce/CLAUDE/asap5/spice/xyce_models/nmos_slvt_tt_cal.pm'
.include '/Users/bruce/CLAUDE/asap5/spice/xyce_models/pmos_slvt_tt_cal.pm'

.OPTIONS DEVICE GMIN=1e-12
.OPTIONS NONLIN RELTOL=1e-4 ABSTOL=1e-9
.OPTIONS TIMEINT METHOD=trap RELTOL=1e-3 ABSTOL=1e-12
.OPTIONS MEASURE MEASDGT=5

Vvdd VDD 0 0.4
Vai ai 0 DC 0
Vbi bi 0 PWL(0 0 200p 0 205p 0.4)
Vaj aj 0 DC 0
Vbj bj 0 DC 0

* VARIANT F: Hybrid (42T)
Mp_f_iai f_nai ai VDD VDD pmos_slvt l=16n nfin=2
Mn_f_iai f_nai ai 0 0 nmos_slvt l=16n nfin=2
Cext_f_iai f_nai 0 1.8510f
Mp_f_ibi f_nbi bi VDD VDD pmos_slvt l=16n nfin=2
Mn_f_ibi f_nbi bi 0 0 nmos_slvt l=16n nfin=2
Cext_f_ibi f_nbi 0 1.3460f
Mp_f_iaj f_naj aj VDD VDD pmos_slvt l=16n nfin=2
Mn_f_iaj f_naj aj 0 0 nmos_slvt l=16n nfin=2
Cext_f_iaj f_naj 0 1.8510f
Mp_f_ibj f_nbj bj VDD VDD pmos_slvt l=16n nfin=2
Mn_f_ibj f_nbj bj 0 0 nmos_slvt l=16n nfin=2
Cext_f_ibj f_nbj 0 1.2030f
Mp1_f_q0 f_x0 f_nai f_q0_pm1 VDD pmos_slvt l=16n nfin=2
Mp2_f_q0 f_q0_pm1 f_nbi VDD VDD pmos_slvt l=16n nfin=2
Mp3_f_q0 f_x0 ai f_q0_pm2 VDD pmos_slvt l=16n nfin=2
Mp4_f_q0 f_q0_pm2 bi VDD VDD pmos_slvt l=16n nfin=2
Mn1_f_q0 f_q0_nmid f_nai 0 0 nmos_slvt l=16n nfin=2
Mn2_f_q0 f_q0_nmid f_nbi 0 0 nmos_slvt l=16n nfin=2
Mn3_f_q0 f_x0 ai f_q0_nmid 0 nmos_slvt l=16n nfin=2
Mn4_f_q0 f_x0 bi f_q0_nmid 0 nmos_slvt l=16n nfin=2
Cext_f_q0 f_x0 0 1.3460f
Mp1_f_q1 f_x1 f_naj f_q1_pm1 VDD pmos_slvt l=16n nfin=2
Mp2_f_q1 f_q1_pm1 f_nbj VDD VDD pmos_slvt l=16n nfin=2
Mp3_f_q1 f_x1 aj f_q1_pm2 VDD pmos_slvt l=16n nfin=2
Mp4_f_q1 f_q1_pm2 bj VDD VDD pmos_slvt l=16n nfin=2
Mn1_f_q1 f_q1_nmid f_naj 0 0 nmos_slvt l=16n nfin=2
Mn2_f_q1 f_q1_nmid f_nbj 0 0 nmos_slvt l=16n nfin=2
Mn3_f_q1 f_x1 aj f_q1_nmid 0 nmos_slvt l=16n nfin=2
Mn4_f_q1 f_x1 bj f_q1_nmid 0 nmos_slvt l=16n nfin=2
Cext_f_q1 f_x1 0 0.8280f
Mp_f_ix0 f_d0 f_x0 VDD VDD pmos_slvt l=16n nfin=2
Mn_f_ix0 f_d0 f_x0 0 0 nmos_slvt l=16n nfin=2
Cext_f_ix0 f_d0 0 2.1880f
Mp_f_ix1 f_d1 f_x1 VDD VDD pmos_slvt l=16n nfin=2
Mn_f_ix1 f_d1 f_x1 0 0 nmos_slvt l=16n nfin=2
Cext_f_ix1 f_d1 0 1.0510f
Mp1_f_o2 f_o2_ps f_x0 VDD VDD pmos_slvt l=16n nfin=2
Mp2_f_o2 f_oh2 f_x1 f_o2_ps VDD pmos_slvt l=16n nfin=2
Mn1_f_o2 f_oh2 f_x0 0 0 nmos_slvt l=16n nfin=2
Mn2_f_o2 f_oh2 f_x1 0 0 nmos_slvt l=16n nfin=2
Cext_f_o2 f_oh2 0 3.0010f
CL_f_oh2 f_oh2 0 1f
Mp1_f_a1 f_a1_pm f_d0 VDD VDD pmos_slvt l=16n nfin=2
Mp2_f_a1 f_a1_pm f_x1 VDD VDD pmos_slvt l=16n nfin=2
Mp3_f_a1 f_no1 f_x0 f_a1_pm VDD pmos_slvt l=16n nfin=2
Mp4_f_a1 f_no1 f_d1 f_a1_pm VDD pmos_slvt l=16n nfin=2
Mn1_f_a1 f_no1 f_d0 f_a1_nm1 0 nmos_slvt l=16n nfin=2
Mn2_f_a1 f_a1_nm1 f_x1 0 0 nmos_slvt l=16n nfin=2
Mn3_f_a1 f_no1 f_x0 f_a1_nm2 0 nmos_slvt l=16n nfin=2
Mn4_f_a1 f_a1_nm2 f_d1 0 0 nmos_slvt l=16n nfin=2
Cext_f_a1 f_no1 0 2.1840f
Mp_f_io1 f_oh1 f_no1 VDD VDD pmos_slvt l=16n nfin=2
Mn_f_io1 f_oh1 f_no1 0 0 nmos_slvt l=16n nfin=2
Cext_f_io1 f_oh1 0 1.8570f
CL_f_oh1 f_oh1 0 1f

.TRAN 0.5p 1200p
.PRINT TRAN V(bi) V(f_oh1) V(f_oh2) I(Vvdd)

.MEASURE TRAN tpd_oh1 TRIG V(bi) VAL=0.2 RISE=1
+  TARG V(f_oh1) VAL=0.2 RISE=1
.MEASURE TRAN i_avg AVG I(Vvdd) FROM=0 TO=1200p
.MEASURE TRAN i_switch AVG I(Vvdd) FROM=200p TO=800p
.MEASURE TRAN i_peak MAX I(Vvdd) FROM=200p TO=400p
.END
